US04383945
A mixture of benzyl 4-[(2RS)-4-oxoazetidin-2-yl]but-2-enoate (167 mg), tert-butylhydroperoxide (0.3 ml), and sodium tetrachloropalladate (80 mg) in 67% aqueous acetic acid (2.7 ml) was heated at 50° C. for 8.5 hours. Additional tert-butylhydroperoxide (0.5 ml) and sodium tetrachloropalladate (40 mg) were added. The reaction mixture was stirred at room temperature for three days and heated at 50° C. for 14 hours. After evaporation of the solvent in vacuo, the residue was taken up into ethyl acetate (20 ml) and washed with dilute aqueous sodium chloride. Drying over magnesium sulfate and evaporation left an oil (200 mg), which was chromatographed on silica gel plate (developing solvent: 20% acetone in dichloromethane) afforded benzyl 3-oxo-4-[(2RS)-4-oxoazetidin-2-yl]butanoate (66 mg).

reactant | benzyl 4-[(2RS)-4-oxoazetidin-2-yl]but-2-enoate | 167 mg | O=C1CC(N1)CC=CC(=O)OCC1=CC=CC=C1 | C14H15NO3
reactant | tert-butylhydroperoxide | 0.3 ml | C(C)(C)(C)OO | C4H10O2
reactant | tert-butylhydroperoxide | 0.5 ml | C(C)(C)(C)OO | C4H10O2
solvent | acetic acid | 2.7 ml | C(C)(=O)O | C2H4O2
catalyst | sodium tetrachloropalladate | 80 mg | [Na+].[Na+].Cl[Pd+2](Cl)(Cl)Cl
catalyst | sodium tetrachloropalladate | 40 mg | [Na+].[Na+].Cl[Pd+2](Cl)(Cl)Cl
product | benzyl 3-oxo-4-[(2RS)-4-oxoazetidin-2-yl]butanoate | 66 mg | O=C(CC(=O)OCC1=CC=CC=C1)CC1NC(C1)=O | C14H15NO4
